US04788195
A 5.85 g portion of 4-[[4-(3-pyridinyl)-2-pyrimidinyl]amino]benzoic acid in 30 ml of thionyl chloride was refluxed on a steam bath for one hour, then evaporated to dryness. The residue was boiled with dimethoxyethane, then cooled and the solid recovered and washed with ether, giving 6.90 g of 4-[[4-(3-pyridinyl)-2-pyrimidinyl]amino]benzoic acid chloride.

reactant | 4-[[4-(3-pyridinyl)-2-pyrimidinyl]amino]benzoic acid | N1=CC(=CC=C1)C1=NC(=NC=C1)NC1=CC=C(C(=O)O)C=C1 | C16H12N4O2
reactant | thionyl chloride | 30 ml | S(=O)(Cl)Cl | Cl2OS
product | 4-[[4-(3-pyridinyl)-2-pyrimidinyl]amino]benzoic acid chloride | 6.90 g | N1=CC(=CC=C1)C1=NC(=NC=C1)NC1=CC=C(C(=O)Cl)C=C1 | C16H11ClN4O
